US08227431B2
Preparation of ((2R,4R)-3-acetoxy-5-(6-(benzylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyltetrahydrofuran-2-yl)methyl benzoate
To a stirred solution of ((2R,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate (about 0.2 g, 0.43 mmol) in ethanol (about 8 ml) was added benzylamine (about 0.56 ml, 5.19 mmol) and refluxed for about 30 minutes. Completion of the reaction monitored by thin-layer chromatography, water added to the reaction mixture and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine and dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 3% methanol in dichloromethane as eluent furnished title compound (0.22 g) as a colorless solid. Yield: 97%; 1H NMR (300 MHz, CDCl3): δ 8.44 (s, 1H), 8.13-7.96 (m, 3H), 7.59-7.57 (m, 1H), 7.49-7.28 (m, 7H), 6.57 (d, 1H, J=23.1 Hz), 6.24 (bs, 1H), 4.89-4.79 (m, 3H), 4.50-4.43 (m, 1H), 2.18 (s, 3H), 1.90 (d, 3H, J=2.1 Hz), 1.47 (d, 3H, J=23.1 Hz); Mass: [M+1]+ 534 (85%), [M+Na]+ 556 (100%). IR cm−: 3385, 1751, 1720, 1619, 1528, 1476, 1369, 1274, 1062, 712; HPLC: 95%.

reactant | ((2R,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | 0.43 mmol, about 0.2 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)Cl | C21H20ClFN4O5
reactant | benzylamine | 5.19 mmol, about 0.56 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | water | O | H2O
solvent | ethanol | about 8 ml | C(C)O | C2H6O
product | ((2R,4R)-3-acetoxy-5-(6-(benzylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyltetrahydrofuran-2-yl)methyl benzoate | 0.22 g, Yield: 97% | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)NCC1=CC=CC=C1 | C28H28FN5O5
